Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
amoxicillin / metformin
 
Attending: ___.
 
Chief Complaint:
Acute appendicitis
 
Major Surgical or Invasive Procedure:
laparascopic appendectomy

 
History of Present Illness:
___ who presents with progressively worsening constant RLQ 
abdominal pain x 24 hours. She denies fevers, chills, nausea, 
vomiting associated with the pain. In the ED she was found to 
have acute appendicitis on CT imaging. Her last colonoscopy was 
___ years ago and was unremarkable. She is due for a repeat scope 
soon. 

 
Past Medical History:
Hyperlipidemia
Leukemia in remission since ___
Left breast ductal carcinoma in situ s/p partial mastectomy 
___)

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Admission physical exam:
99.6 80 116/65 16 100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, tender in the RLQ with focal guarding.
Tenderness radiating to the RLQ
Ext: No ___ edema, ___ warm and well perfused

 
Pertinent Results:
IMAGING:
___ CT ABD & PELVIS WITH CONTRAST   
1. Acute uncomplicated appendicitis. 
2. Mild hepatic steatosis. 
3. Colonic diverticulosis without diverticulitis. 

LABS:
___ 09:24PM   LACTATE-1.5
___ 09:20PM   ___ PTT-30.1 ___
___ 06:24PM   GLUCOSE-100 UREA N-15 CREAT-0.8 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-23 ANION GAP-21*
___ 06:24PM   CALCIUM-9.8 PHOSPHATE-4.0 MAGNESIUM-1.8
___ 06:24PM   WBC-11.8* RBC-4.45 HGB-14.2 HCT-41.9 MCV-94 
MCH-31.9 MCHC-33.9 RDW-12.6 RDWSD-43.7
___ 06:24PM   PLT COUNT-172

 
Brief Hospital Course:
Patient was admitted to the hospital on ___ with acute 
appendicitis. She was taken to the operating room emergently for 
laparascopic appendectomy. Procedure was uncomplicated, but 
technically challenging given the degree of inflammation and 
frankly gangrenous friable appendix. Post-operatively, patient 
received 24 hours of IV antibiotics for infectious prophylaxis. 
She did well, was able to tolerate regular diet, and her pain 
was well controlled on oral pain regimen. She was therefore 
discharged home on post-operative day one.
 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute appendicitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital with a diagnosis of acute 
appendicitis. Your management included laparascopic appendectomy 
to remove the inflamed appendix. You did not require 
antibiotics. You were able to tolerate regular diet and fluids 
at the time of your discharge. Please follow instructions 
outlined below to ensure good recovery.

ACTIVITY:
You may resume regular activity. You may climb stairs. You may 
start some light exercise when you feel comfortable. You may 
resume sexual activity unless your doctor has told you 
otherwise. 

HOW YOU MAY FEEL:
You may feel weak or "washed out" for 6 weeks. You might want to 
nap often. Simple tasks may exhaust you. You might have trouble 
concentrating or difficulty sleeping. You might feel somewhat 
depressed. You could have a poor appetite for a while. Food may 
seem unappealing. All of these feelings and reactions are normal 
and should go away in a short time.

YOUR BOWELS:
Constipation is a common side effect of medicine such as 
oxycodone, Percocet or codeine. If needed, you may take a stool 
softener (such as Colace, one capsule) or gentle laxative (such 
as milk of magnesia, 1 tbs) twice a day. You can get both of 
these medicines without a prescription. If you go 48 hours 
without a bowel movement, or have pain moving the bowels, call 
your primary care doctor and the surgery office to schedule an 
appointment. Drink plenty of fluids. If you develop diarrhea, 
stop taking laxatives. If it does not go away, or is severe and 
you feel ill, please call your surgeon.

MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently. If you 
have any questions about what medicine to take or not to take, 
please call your surgeon.

DANGER SIGNS:
Please call your surgeon and go to the nearest emergency room if 
you develop:
- sharp pain or any severe pain that lasts several hours 
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
 
Followup Instructions:
___